US06130330
Synthesis of trans-dodecahydro-4,5,8a,10a-tetraaza-phenanthrene
A solution of 87.2 g of 1,10-diamino-4,7-diazadecane in 500 ml of toluene was admixed with 72.3 g of a 40% aqueous glyoxal solution, and the mixture was refluxed, with a water separator fitted, for 3 hours. When the solution was cooled, a solid precipitated out which was filtered off with suction, washed three times with 50 ml of toluene each time and dried under reduced pressure. This gave 34.9 g of pale yellow needles.

reactant | 1,10-diamino-4,7-diazadecane | 87.2 g | NCCCNCCNCCCN | C8H22N4
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | trans-dodecahydro-4,5,8a,10a-tetraaza-phenanthrene | C1CCN[C@@H]2[C@H]3NCCCN3CCN12 | C10H20N4
